US06566360B1
2-[2-Ethoxy-5-(3-hydroxypyrrolidine-1-sulphonyl)-phenyl]-5,7-dimethyl-3H-imidazo[5,1-f]-[1,2,4]triazin-4-one
By the same method, starting with 100 mg (0.261 mmol) of 4-ethoxy-3-(5,7-dimethyl-4-oxo-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride and, 70 mg (0.784 mmol) of 3-hydroxypyrrolidine, 13 mg (11.1% of theory) of 2-[2-ethoxy-5-(3-hydroxy-pyrrolidine-1-sulphonyl)-phenyl]-5,7-dimethyl-3H-imidazo-[5,1-f][1,2]triazin-4-one are obtained.

reactant | 4-ethoxy-3-(5,7-dimethyl-4-oxo-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride | 0.261 mmol, 100 mg | C(C)OC1=C(C=C(C=C1)S(=O)(=O)Cl)C1=NN2C(C(N1)=O)=C(N=C2C)C | C15H15ClN4O4S
reactant | 3-hydroxypyrrolidine | 0.784 mmol, 70 mg | OC1CNCC1 | C4H9NO
product | 2-[2-Ethoxy-5-(3-hydroxypyrrolidine-1-sulphonyl)-phenyl]-5,7-dimethyl-3H-imidazo[5,1-f]-[1,2,4]triazin-4-one | C(C)OC1=C(C=C(C=C1)S(=O)(=O)N1CC(CC1)O)C1=NN2C(C(N1)=O)=C(N=C2C)C | C19H23N5O5S
